US07713994B2
tert-butyl 4-(6-aminopyridin-3-yl)piperazine-1-carboxylate
An amount of 2 g (6.48 mmol) of, tert-butyl 4-(6-nitropyridin-3-yl)piperazine-1-carboxylate, 1.4 g (25.9 mmol) of iron, and acetic acid (3.1 mL, 48.6 mmol) were placed in a flask. Methanol (30 mL) is added and heat at 60° C. for 2 hours. After cooling to room temperature, the precipitate is filtered, the methanol is removed in a vacuum and saturated sodium bicarbonate is added. The mixture is extracted 3× with ethyl acetate. Dried over sodium sulfate, and evaporated to give 1.43 g (78% yield) as a purple solid. MS (ESI) m/z 279.1(M+1)+.

reactant | tert-butyl 4-(6-nitropyridin-3-yl)piperazine-1-carboxylate | [N+](=O)([O-])C1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20N4O4
reactant | acetic acid | 48.6 mmol, 3.1 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 25.9 mmol, 1.4 g | [Fe] | Fe
solvent | Methanol | 30 mL | CO | CH4O
product | tert-butyl 4-(6-aminopyridin-3-yl)piperazine-1-carboxylate | 78% yield | NC1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
